US08633312B2
(S)-2-(2-Aminophenylamino)-8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (12b)
For the synthesis of the title compound, 0.91 g (0.0024 mol) of (S)-2-chloro-8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 1.00 g (0.0092 mol) of phenylenediamine, 2 spatula tips of Pd(OAc)2, 0.18 g of phosphine ligand and 1.60 g (0.0166 mol) of NaOtert-Bu in 10 ml of toluene and 2 ml of tert-BuOH are reacted by method O.

reactant | (S)-2-chloro-8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 0.0024 mol, 0.91 g | ClC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC[C@@H]3OC(OC3)(C)C)=O)C=C1 | C21H21ClO4
reactant | phenylenediamine | 0.0092 mol, 1.00 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | phosphine | 0.18 g | P | H3P
reactant | NaOtert-Bu | 0.0166 mol, 1.60 g | O([Na])C(C)(C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-BuOH | 2 ml | C(C)(C)(C)O | C4H10O
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-2-(2-Aminophenylamino)-8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | NC1=C(C=CC=C1)NC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC[C@@H]3OC(OC3)(C)C)=O)C=C1 | C27H28N2O4
